US05334709
The 2,4-dichloro-6-methoxy-s-triazine obtained as described in Example A-3 is suspended in acetone, 46 parts of ethanol and 90 parts of sodium bicarbonate are slowly added, and the reaction is carried out at a temperature of between 40° and 50° C. for about one hour. The mixture is then evaporated to give the compound 2-chloro-4-methoxy-6-ethoxy-s-triazine as a powder which contains electrolyte salts and serves as the monochloro-triazine starting compound in the synthesis of dyestuffs according to the invention.

reactant | 2,4-dichloro-6-methoxy-s-triazine | ClC1=NC(=NC(=N1)Cl)OC | C4H3Cl2N3O
reactant | ethanol | C(C)O | C2H6O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetone | CC(=O)C | C3H6O
product | 2-chloro-4-methoxy-6-ethoxy-s-triazine | ClC1=NC(=NC(=N1)OC)OCC | C6H8ClN3O2
